US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}BIS(2-ETHOXY-3-METHOXYBENZYL)AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 2-ethoxy-3-methoxy-benzaldehyde according to the procedure of Example 66. MS (ESI) m/z 707.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 2-ethoxy-3-methoxy-benzaldehyde | C(C)OC1=C(C=O)C=CC=C1OC | C10H12O3
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}BIS(2-ETHOXY-3-METHOXYBENZYL)AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N(CC1=C(C(=CC=C1)OC)OCC)CC1=C(C(=CC=C1)OC)OCC)C(F)(F)F | C43H41F3N2O4
